US04960771
Preparation of cis and trans 2-oxa-4-azabicyclo[10.3.0.]pentadecan-3-one
A solution of 15.7 g cyclododecene and 15.8 g dichlorourethane in 125 ml of benzene was refluxed for 12 hours under a nitrogen atmosphere. The reaction mixture was cooled, diluted with 100 ml of ether and then washed repeatedly with saturated sodiumbisulfite solution. After washing with brine the organic layer was dried and concentrated to give 19.5 g of crudechlorourethane. This was heated at 100°-120° C. for 6 hours. The resulting thick dark oil was diluted with hexane and allowed to stand in the freezer overnight. The solid was filtered and recrystallized from hexane/dichloromethane to give 5.66 g of white crystals, m.p. 84°-86° C. The mother liquor was concentrated to give 5.23 g of thick oil which after flash chromatography (silica gel; ethyl acetate/hexane) gave additional 1.23 g of white crystals, m.p. 85° C. and 0.96 g of a clear oil, which slowly solidified. Recrystallization from hexane gave 0.25 g of crystals, m.p. 72°-74° C.

reactant | cyclododecene | 15.7 g | C1=CCCCCCCCCCC1 | C12H22
reactant | dichlorourethane | 15.8 g | ClN(C(=O)OCC)Cl | C3H5Cl2NO2
reactant | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | pentadecan-3-one | 5.66 g | CCC(CCCCCCCCCCCC)=O | C15H30O
